US09302988B2
HATU (12.6 g, 33.24 mmol) and DIPEA (12.4 ml, 69.25 mmol) were added to the ice cold solution of 1-benzyl-3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid (10 g, 27.77) in DMF (110 mL) and it was stirred for 10 min at same temperature and then neopentyl amine (3.92 ml, 33.24 mmol) was added to the reaction mixture warmed to RT and then stirred for 15 h. Reaction mixture was diluted with EtOAc and H2O. The aqueous layer was extracted with EtOAc (2×300 mL). Combined organic layer was dried over anhydrous Na2SO4, concentrated under reduced pressure to yield crude mass of 1-benzyl-3-bromo-4-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide (11 g, 91.9% yield, white color solid) which directly used without further purification. Methyl iodide (3.17 mL, 51.04 mmol) was added to the ice cold solution of 1-benzyl-3-bromo-4-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide (11 g, 25.52 mmol), (100%) NaH (1.2 g, 51.04 mmol) in THF (100 mL) and stirred for 2 h at RT. The reaction mass was poured onto crushed ice, extracted with EtOAc (2×200 mL). Combined organic layer was dried over anhydrous Na2SO4, concentrated under reduced pressure to yield crude mass which was then purified by column chromatography (100-200 mesh Silica gel; 10% ethyl acetate/hexane Rf-value 0.6) to afford title compound (10 g, 88.05% yield, white solid).

reactant | HATU | 33.24 mmol, 12.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 69.25 mmol, 12.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-benzyl-3-bromo-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid | 10 g | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)Br)C(=O)O | C14H11BrF3NO2
reactant | neopentyl amine | 33.24 mmol, 3.92 ml | C(C(C)(C)C)N | C5H13N
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 1-benzyl-3-bromo-4-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 11 g, 91.9% yield | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)Br)C(=O)NCC(C)(C)C | C19H22BrF3N2O
